US07786105B2
1-[2-tert-Butyl-6-(trifluoromethyl)pyrimidin-4-yl]-4-[3-(2-oxo-3,4-dihydroquinolin-1(2H)-yl)propyl]piperazin-4-ium chloride
3,4-Dihydroquinolin-2(1H)-one (3.40 mmol, 0.50 g) in N,N-dimethylformamide (5 ml) was added dropwise to a suspension of NaH (3.74 mmol, 0.15 g, 60%, deoiled) in N,N-dimethylformamide (10 ml) at 10° C., followed by preactivation at room temperature for 1 hour. Then 2-tert-butyl-4-[4-(3-chloropropyl)piperazin-1-yl]-6-(trifluoromethyl)-pyrimidine (3.57 mmol, 1.30 g; prepared as in DE 19728996) in N,N-dimethyl-formamide (5 ml) was added dropwise. The reaction mixture was stirred at room temperature for 12 hours. After the reaction mixture had been concentrated to dryness, the remaining oil was taken up in 1:1 ethyl acetate/water mixture. The aqueous mixture was extracted with saturated brine. The organic phase was dried over Na2SO4, the desiccant was filtered off, and the organic phase was concentrated under reduced pressure. The residue obtained in this way was purified by chromatography on silica gel (eluent: heptane:diethyl ether 0-100%), resulting in 840 mg of the title compound.

reactant | 3,4-Dihydroquinolin-2(1H)-one | 3.40 mmol, 0.50 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | NaH | 3.74 mmol, 0.15 g | [H-].[Na+]
reactant | 2-tert-butyl-4-[4-(3-chloropropyl)piperazin-1-yl]-6-(trifluoromethyl)-pyrimidine | 3.57 mmol, 1.30 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C(F)(F)F | C16H24ClF3N4
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl-formamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[2-tert-Butyl-6-(trifluoromethyl)pyrimidin-4-yl]-4-[3-(2-oxo-3,4-dihydroquinolin-1(2H)-yl)propyl]piperazin-4-ium chloride | 840 mg | [Cl-].C(C)(C)(C)C1=NC(=CC(=N1)N1CC[NH+](CC1)CCCN1C(CCC2=CC=CC=C12)=O)C(F)(F)F | InChI=1S/C25H32F3N5O.ClH/c1-24(2,3)23-29-20(25(26,27)28)17-21(30-23)32-15-13-31(14-16-32)11-6-12-33-19-8-5-4-7-18(19)9-10-22(33)34;/h4-5,7-8,17H,6,9-16H2,1-3H3;1H
